US08633237B2
a) (E)-5-bromo-2,3-dihydro-1H-inden-1-one Oxime
5-bromo-2,3-dihydro-1H-inden-1-one (25 g, 118 mmol) and hydroxylamine hydrochloride (12.35 g, 178 mmol) were heated in Ethanol (150 mL) for 5 hours with stirring. The solvent was evaporated in vacuo and remaining solid partitioned between H2O and EtOAc. The organic layer was separated and washed with brine (2×), dried on Na2SO4 and solvent evaporated in vacuo to afford the title compound as a light brown solid (23.6 g, 87%). MS (ESI): m/z [M+H]+ 227.0

reactant | 5-bromo-2,3-dihydro-1H-inden-1-one | 118 mmol, 25 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | hydroxylamine hydrochloride | 178 mmol, 12.35 g | Cl.NO
solvent | Ethanol | 150 mL | C(C)O | C2H6O
product | (E)-5-bromo-2,3-dihydro-1H-inden-1-one Oxime | 23.6 g, 87% | BrC=1C=C2CC\C(\C2=CC1)=N/O | C9H8BrNO
